US09422331B2
To a rt solution of tert-butyl(3S,4S)-7-cyano-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate (406 mg, 1.28 mmol) in DMF (3.21 ml) was added 1-(chloromethyl)-2-methoxynaphthalene (318 mg, 1.54 mmol) and cesium carbonate (1.25 g, 3.85 mmol). The reaction was stirred at rt for 16 h, then diluted with EtOAc, washed with H2O and sat. aq. NaCl, dried over Na2SO4, filtered, and concentrated. The crude material was purified by flash chromatography to provide tert-butyl(3S,4S)-7-cyano-1-((2-methoxynaphthalen-1-yl)methyl)-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate (448 mg, 72%) as an off-white solid. MS m/z 509 (MNa)+.

reactant | tert-butyl(3S,4S)-7-cyano-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate | 1.28 mmol, 406 mg | C(#N)C1=CC2=C(NC([C@H]([C@@H](N2)C)NC(OC(C)(C)C)=O)=O)C=C1 | C16H20N4O3
reactant | 1-(chloromethyl)-2-methoxynaphthalene | 1.54 mmol, 318 mg | ClCC1=C(C=CC2=CC=CC=C12)OC | C12H11ClO
reactant | cesium carbonate | 3.85 mmol, 1.25 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 3.21 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl(3S,4S)-7-cyano-1-((2-methoxynaphthalen-1-yl)methyl)-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate | 448 mg, 72% | C(#N)C1=CC2=C(N(C([C@H]([C@@H](N2)C)NC(OC(C)(C)C)=O)=O)CC2=C(C=CC3=CC=CC=C23)OC)C=C1 | C28H30N4O4
